US07375093B2
To a stirred mixture of Boc-Aib-OH (5 g, 24.61 mmol, 1 eq), MeNHOMe.HCl (2.88 g, 29.53 mmol, 1.2 eq), DMAP (3.61 g, 29.53 mmol, 1.2 eq), i-Pr2NEt (5.02 mL, 29.53 mmol, 1.2 eq) and CH2Cl2 (100 mL) was added DCC (6.09 g, 29.53 mmol, 1.2 eq). The mixture was stirred at room temperature for 5 days. The mixture was filtered to remove precipitated N,N′-dicyclohexylurea and the filtrate was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (200 mL), washed with 10% aqueous citric acid (3×200 mL), 10% aqueous NaHCO3 (3×200 mL) and saturated aqueous sodium chloride (3×200 mL), and dried over MgSO4. Removal of the solvent yeided the crude product which was purified by column chromatography (hexane/ethyl acetate 60:40) to afford [1-(methoxy-methyl-carbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (4.85 g, 80%) as a white solid. 1H NMR (200 MHz, CDCl3) δ(ppm): 1.43 (s, 6H), 1.58 (s, 9H), 3.22 (s, 3H), 3.69 (s, 3H), 6.95 (bs, 1H). MS (ESI, +ve ion): m/z 247.2 (M+1)+.

reactant | Boc-Aib-OH | 24.61 mmol, 5 g, 1 eq | N(C(C)(C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO4
reactant | MeNHOMe.HCl | 29.53 mmol, 2.88 g, 1.2 eq | CNOC.Cl
reactant | i-Pr2NEt | 29.53 mmol, 5.02 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | DCC | 29.53 mmol, 6.09 g, 1.2 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 29.53 mmol, 3.61 g, 1.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | [1-(methoxy-methyl-carbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 4.85 g, 80% | C(C)(C)(C)OC(NC(C)(C)C(N(C)OC)=O)=O | C11H22N2O4
